US05780590
As a specific example of the HOBT/TBTU Method, when the general procedure is followed, 10 g (24.5 mmole) of BOC-N(Et)Gly-(L)-Asp(OBzl)-OH is used, then 9.3 g of BOC-N(Et)Gly-(L)-Asp(OBzl)-(L)-Cha-NH2 is prepared (96.1 A % pure, 1.77 A % diastereomer at Asp), a 67.7% theoretical yield.

reactant | HOBT TBTU | C=1C=CC2=C(C1)N=NN2O.CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | BOC-N(Et)Gly-(L)-Asp(OBzl)-OH | 24.5 mmole, 10 g | C(=O)(OC(C)(C)C)N(CC(=O)N[C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)O)CC | C20H28N2O7
reactant | Asp | N[C@@H](CC(O)=O)C(=O)O | C4H7NO4
product | BOC-N(Et)Gly-(L)-Asp(OBzl)-(L)-Cha-NH2 | 9.3 g | C(=O)(OC(C)(C)C)N(CC(=O)N[C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H](CC1CCCCC1)C(=O)N)CC | C29H44N4O7
